Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This patient is a ___ year old woman with history of MI in ___ 
s/p stent placement at that time, followed by CABG ___ LIMA to 
LAD and hyperlipidemia who presents with ___ "crushing" chest 
pain accompanied by dyspnea, diaphoresis, and lightheadedness 
following emotional stress yesterday.  There was radiation 
around her abdomen and "tightness" to the left side of the neck 
as well as left arm weakness.  Pain is not pleuritic in nature 
and is not exacerbated by movement.  Onset was yesterday 
following a small meal.  Around this time the patient was having 
an argument with her son.  She reports that the pain was similar 
to what she felt during a stress test last year at ___. 
 She took two nitroglycerin tablets, to which her symptoms did 
not abate.  She went to the ED at ___ where she 
received aspirin, nitroglycerin, and morphine and her chest pain 
improved at this time.

Patient reports that she had ___ similar discomfort twice 
this week, once when arguing with her son, and another time when 
exerting herself taking care of her grandchildren.  She reports 
that in the past, she would get a mild discomfort occasionally 
when being fairly active with the children.  She is sedentary 
but can climb short flights of stairs and go about her daily 
business without discomfort.

In the ED both at ___ and at the outside hospital troponins 
were found negative, EKG unchanged from prior, vitals stable and 
exam unremarkable.

Upon arrival to the floor the patient still had ___ pressure 
sensation on her chest, and complained of this throughout her 
admission.
 
Past Medical History:
PAST MEDICAL HISTORY: 
MI ___ s/p stent to LAD
CABG ___ LIMA to LAD secondary to chest pain in setting of 
flow-limiting stenosis
Hyperlipidemia
Depression
Anxiety
Endometriosis
Uterine leimyoma
Ovarian cyst
Peptic ulcer disease
Breast cysts - benign
Abdominal pain

PAST SURGICAL HISTORY
Stent and CABG as above
Colonic adenoma removed ___
Total abdominal hysterectomy
Temporal artery bx ___ found negative for temporal arteritis

Cardiac medical records obtained from ___:
Briefly, this patient presented in ___ for chest pain with 
negative EKG.  Cardiac enzymes not noted on discharge summary 
provided.  Cath showed 70% ostial lesion which was stented.  Pt 
continued to have chest pain and had multiple caths, 30 day 
event monitors, and stress tests after the procedure.  In ___ a cath showed FFR = .72 at the proximal LAD leading to 
subsequent CABG (LIMA-->LAD).  However, pt continued to have 
pain.  In ___ a cath showed patent graft and patent LAD 
with 40% stenosis.
 
Social History:
___
Family History:
Mother had first MI in ___, stroke in late ___.  Brother had 
pacemaker in late ___, MI in ___.  No diabetes in the family.  
Brain+lung cancer in brother who died at age ___ of this.  Breast 
cancer in daughter at age ___.
 
Physical Exam:
Upon arrival to the floor:
VS:  T 97.6 P 70 BP 116/79 R 16 SPO2 96% on RA
General: Comfortable, NAD, very pleasant
HEENT: NC/AT, moist mucous membranes
Neck: Supple, JVP visualized approx 2-3 cm above sternal notch 
with bed at 45 deg
CV: RRR, S1 and S2 present, no murmurs gallops or rubs.  The 
chest wall is nontender including costal cartilage anteriorly.
Lungs: CTAB
Abdomen: +BS, soft, nontender, nondistended
Ext: No edema, warm and well-perfused
Neuro: WNL
Skin: No lesions noted
Pulses: 2+ pulses UE and ___

Upon discharge:
VS: T 98.4 BP 106/60 P 53 R18 SPO2 96% on RA
General: Alert, NAD, comfortably reclining in bed
HEENT: moist mucous membranes, no jugular venous distension
CV: RRR, S1 S2 present.  No murmurs, gallops, or rubs
Lungs: CTAB
Abdomen: soft, non tender, non distended, +BS
Ext: No edema, warm and well-perfused
Neuro: WNL
Pulses: 2+ throughout UE and ___
 
Pertinent Results:
___ 01:35AM   WBC-10.7 RBC-4.48 HGB-13.7 HCT-39.1 MCV-87 
MCH-30.5 MCHC-34.9 RDW-13.1
___ 01:35AM   cTropnT-<0.01
___ 01:35AM   GLUCOSE-112* UREA N-15 CREAT-0.8 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-26 ANION GAP-14
___ 07:10AM   cTropnT-<0.01
___ 07:25AM   WBC-11.8 RBC-13.5 HGB-13.5 HCT-39.___ year old female with CAD s/p stent and CABG presents with 
chest pain, diaphoresis, dyspnea, lightheadedness.

#  Chest pain - The patient's symptoms are somewhat consistent 
with angina, including the diaphoresis, dyspnea, radiation, and 
onset with exertion/emotional stress.  However, it did not 
resolve initially with nitroglycerin, and the pain continued 
throughout her hospitalization.  EKG was unchanged and troponins 
negative x 2 from the ED.

Upon review of records obtained from ___, these symptoms 
appear to be nearly identical to a number of previous admissions 
there which resulted in numerous negative stress tests and 
catheterizations.

Dipyridamole stress test was performed on ___ which was 
normal, but patient had non-progressive ___ atypical chest pain 
secondary to anxiety.  Nuclear scan showed normal perfusion and 
EF=46%.  Therefore worsening CAD was felt unlikely to be the 
cause of the patient's pain.

Patient has history of anxiety and depression, and history of 
abdominal pain (negative GI workup), transient blindness 
(negative workup), endometriosis.  Likely the patient's 
psychiatric issues contribute to this chest pain.  The patient 
should follow with her psychiatrist as an outpatient.  The 
patient also continues to smoke, and should be counseled for 
smoking cessation.  The patient's Plavix, isosorbide 
mononitrate, and metoprolol were continued during this 
admission.

# CAD/HLD - Patient is s/p stent and CABG.  LDL 110 in ___ 
which is not at goal < 100, ideally < 70.  Atorvastatin was 
increased from 60 to 80 mg po qday.

# Depression and anxiety - The patient did require some prn 
lorazepam during this admission secondary to anxiety regarding 
her chest pain.  She denied depressive symptoms.  She reported 
having an ongoing fight with her son, causing increased stress 
recently.  During this admission her sertraline, buspirone, 
bupropion, and lorazepam were continued.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 60 mg PO HS 
3. Clopidogrel 75 mg PO DAILY 
4. Lorazepam 0.5 mg PO BID:PRN anxiety/insomnia 
Hold for sedation, RR<10 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
Hold for SBP<95, HR<50 
6. Multivitamins 1 TAB PO DAILY 
7. BusPIRone 10 mg PO BID 
8. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
9. Sertraline 50 mg PO QHS 
10. BuPROPion (Sustained Release) 150 mg PO QAM 
11. Nitroglycerin SL 0.4 mg SL PRN chest pain 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO HS 
3. Clopidogrel 75 mg PO DAILY 
4. Lorazepam 0.5 mg PO BID:PRN anxiety/insomnia 
Hold for sedation, RR<10 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
Hold for SBP<95, HR<50 
6. Multivitamins 1 TAB PO DAILY 
7. BusPIRone 10 mg PO BID 
8. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
9. Sertraline 50 mg PO QHS 
10. BuPROPion (Sustained Release) 150 mg PO QAM 
11. Nitroglycerin SL 0.4 mg SL PRN chest pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Chest pain related to panic disorder

Seconadary Diagnosis:
Coronary Artery Disease
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You came in with concerning chest pain over the 
last several days. Your blood work and EKG did not show any 
evidence of a heart attack. We performed a stress test this 
admission which was normal. The symptoms you are experiencing 
are most likely related to several life stressors. We have 
provided you a referral for further mind-body treatment.
 
Followup Instructions:
___